US07897619B2
tert-Butyl(S)-1-(5-(isoquinolin-6-yl)-1,3,4-oxadiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate:
5-(Isoquinolin-6-yl)-1,3,4-oxadiazol-2-amine (0.083 g, 0.39 mmol) was mixed with (S)-tert-Butyl 4-(4-(trifluoromethyl)benzyl)-1,2,3-oxathiazolidine-3-carboxylate-2,2-dioxide (0.15 g, 0.39 mmol) and Cs2CO3 (0.381 g, 1.17 mmol) in 2 mL DMF. The mixture was stirred at room temperature for 3 hours, then at 60° C. for 1 hour. After removing the DMF at a reduced pressure, the remaining residue was treated with 1N HCl for 30 minutes. It was then partitioned between EtOAc and saturated aqueous ammonium chloride. The EtOAc solution was washed twice with saturated aqueous ammonium chloride and dried over sodium sulfate. After removing the EtOAc, the remaining residue was subjected to a silica gel column using 70% EtOAc in hexane as the eluant. A white solid was obtained as the desired product (0.040 g, 20%). LCMS (API-ES) m/z (%): 514.0 (100%, M++H).

reactant | 5-(Isoquinolin-6-yl)-1,3,4-oxadiazol-2-amine | 0.39 mmol, 0.083 g | C1=NC=CC2=CC(=CC=C12)C1=NN=C(O1)N | C11H8N4O
reactant | (S)-tert-Butyl 4-(4-(trifluoromethyl)benzyl)-1,2,3-oxathiazolidine-3-carboxylate-2,2-dioxide | 0.39 mmol, 0.15 g | FC(C1=CC=C(C[C@@H]2N(S(OC2)(=O)=O)C(=O)OC(C)(C)C)C=C1)(F)F | C15H18F3NO5S
reactant | Cs2CO3 | 1.17 mmol, 0.381 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-Butyl(S)-1-(5-(isoquinolin-6-yl)-1,3,4-oxadiazol-2-ylamino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 0.040 g, 20% | C1=NC=CC2=CC(=CC=C12)C1=NN=C(O1)NC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C26H26F3N5O3
